US06468995B1
To a solution of 1-(cyclohexyloxycarbonyloxy)ethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylate (166 mg) in a mixture of ethyl acetate (5 ml) and THF (5 ml) was added 4N hydrogen chloride in ethyl acetate (0.127 ml) under ice-cooling. The mixture was stirred at the same temperature for 10 minutes, and then the resulting precipitates was collected by filtration to give 1-(cyclohexyloxy-carbonyloxy)ethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylate dihydrochloride (164 mg).

reactant | 1-(cyclohexyloxycarbonyloxy)ethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylate | 166 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NNC2)C(=O)OC(C)OC(=O)OC2CCCCC2)C1=O)=N/O | C25H29N7O8S3
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 0.127 ml | C(C)(=O)OCC | C4H8O2
product | 1-(cyclohexyloxy-carbonyloxy)ethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(hydroxyimino)acetamido]-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylate dihydrochloride | 164 mg | Cl.Cl.NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NNC2)C(=O)OC(C)OC(=O)OC2CCCCC2)C1=O)=N/O | InChI=1S/C25H29N7O8S3.2ClH/c1-12(39-25(36)40-14-5-3-2-4-6-14)38-23(35)19-16(41-9-13-7-27-28-8-13)11-42-22-18(21(34)32(19)22)30-20(33)17(31-37)15-10-43-24(26)29-15;;/h7-8,10,12,14,18,22,37H,2-6,9,11H2,1H3,(H2,26,29)(H,27,28)(H,30,33);2*1H/b31-17-;;/t12?,18-,22-;;/m1../s1
